US08212041B2
N-((6-(4-(aminomethyl)-3-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine
To a stirring solution of tert-butyl (2-chloro-4-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methylcarbamate (70 mg, 128 μmol) in DCM (2 mL) was added TFA (2 mL). Reaction solution stirred for 30 min at 23° C. Solvents then removed under reduced pressure and residue purified on prep-HPLC using a water/ACN (0.1% TFA) gradient. Resulting solid was dissolved in 1:1 ACN/water (1 mL) and pH adjusted to 10 with 1M NaOH (approx 10 drops). Resulting solid collected by filtraton and washed with water (5 mL). MS (ESI pos. ion) m/z: 447 (MH+). Calc'd exact mass for C22H19ClN8O: 446.

reactant | tert-butyl (2-chloro-4-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methylcarbamate | 128 μmol, 70 mg | ClC1=C(C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC)CNC(OC(C)(C)C)=O | C27H27ClN8O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ACN water | 1 mL | C(C)#N.O
catalyst | NaOH | 1M, approx 10 drops | [OH-].[Na+]
product | N-((6-(4-(aminomethyl)-3-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | NCC1=C(C=C(C=C1)C=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC)Cl | C22H19ClN8O
